US06284764B1
3-methoxy-4-phenoxynitrobenzene(2 g, 8.15 mmol) was treated with 48% HBr (20 ml) and HOAc (20 ml), The reaction mixture was heated to 110° C. for 24 hours and then the reaction mixture was poured into ice and extracted with EtOAc, the organic layer was washed with brine, dried over Na2SO4. Removal of the solvent provided a brownish residue 5—Nitro-2-phenoxy-phenol which was taken to next step without further purification. (almost quantitative yield). 1H NMR(CDCl3): δ 7.91(d,1H, 2.7 Hz), 7.72(dd, 1H, J1=8.8 Hz, J2=2.4 Hz), 7.43(t, 2 H, J=7.9 Hz), 7.28(d, 1H, 7.9 Hz), 7.10(d, 1H, J=8.3 Hz), 6.78(d, 2H, J=8.9 Hz).

reactant | 3-methoxy-4-phenoxynitrobenzene | 8.15 mmol, 2 g | COC=1C=C(C=CC1OC1=CC=CC=C1)[N+](=O)[O-] | C13H11NO4
reactant | HBr | 20 ml | Br | BrH
solvent | HOAc | 20 ml | CC(=O)O | C2H4O2
product | 5—Nitro-2-phenoxy-phenol | quantitative yield | [N+](=O)([O-])C=1C=CC(=C(C1)O)OC1=CC=CC=C1 | C12H9NO4
